US04503243
2,4,8,10-Tetra-t-butyl-12H-dibenzo[d,g][1,3,2]dioxasilocin
In a flame-dried flask equiped with a dry ice-acetone filled Dewar condenser and a sintered glass inlet, 42.5 grams (0.1 mole) 2,2'-methylene-bis(4,6-di-t-butylphenol) and 20.2 grams (0.2 mole) triethylamine dissolved in 100 ml tetrahydrofuran are treated slowly with 11.1 grams (0.11 mole) dichlorosilane. Filtration and recrystallization from acetonitrile-toluene gave 25.9 grams (57% yield) of a white solid mp 189°-192° C. The 1H NMR spectrum is consistent with the product.

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 2,2'-methylene-bis(4,6-di-t-butylphenol) | 0.1 mole, 42.5 grams | C(C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C29H44O2
reactant | triethylamine | 0.2 mole, 20.2 grams | C(C)N(CC)CC | C6H15N
reactant | dichlorosilane | 0.11 mole, 11.1 grams | Cl[SiH2]Cl | Cl2H2Si
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,4,8,10-Tetra-t-butyl-12H-dibenzo[d,g][1,3,2]dioxasilocin | 25.9 grams, 57% yield | C(C)(C)(C)C1=CC2=C(O[SiH2]OC3=C(C2)C=C(C=C3C(C)(C)C)C(C)(C)C)C(=C1)C(C)(C)C | C29H44O2Si
